US06693136B1
N-(3-{[(7-{[(3-Hydroxyphenyl)amino]sulfonyl}-9-oxo-9H-fluoren-2-yl)sulfonyl]amino}phenyl)acetamide
3-Aminophenol (0.29 g, 2.65 mmmol) and N-(3-aminophenyl)acetamide (0.49 g, 2.65 mmol) in pyridine were treated with 9-oxo-9H-fluorene-2,7-disulfonyl dichloride (1.00 g, 2.65 mmol) in one portion at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour after which the volatiles were evaporated under reduced pressure. The residue was partitioned between ethyl acetate and H2O. The separated organic phase was washed with 1N HCl, brine, dried (Na2SO4), filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography (85% ethyl acetate/hexanes) to provide the title compound as a yellow solid (577 mg, 39% yield). 1H NMR (300 MHz, DMSO-d6) δ 9.91 (bs, 1H), 9.47 (s, 1H), 7.9-8.1 (m, 6H), 7.48 (m, 1H), 7.26 bd, 1H), 7.12 (t, 1H), 6.99 (t, 1H), 6.75 (m, 1H), 6.58 (t, 1H), 6.52 (dd, 1H), 6.42 (dd, 1H), 1.98 (s, 3H); MS (ESI) 562 (M−H)−.

reactant | 3-Aminophenol | 0.29 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | N-(3-aminophenyl)acetamide | 2.65 mmol, 0.49 g | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | 9-oxo-9H-fluorene-2,7-disulfonyl dichloride | 2.65 mmol, 1.00 g | O=C1C2=CC(=CC=C2C=2C=CC(=CC12)S(=O)(=O)Cl)S(=O)(=O)Cl | C13H6Cl2O5S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(3-{[(7-{[(3-Hydroxyphenyl)amino]sulfonyl}-9-oxo-9H-fluoren-2-yl)sulfonyl]amino}phenyl)acetamide | 577 mg, 39% yield | OC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C2C=3C=CC(=CC3C(C2=C1)=O)S(=O)(=O)NC=1C=C(C=CC1)NC(C)=O | C27H21N3O7S2
